US07265120B2
A solution of 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinecarbonitrile 4-oxide (1.54 g) in DMF (30 ml) was stirred at 0° C. Phosphorous oxychloride (1.58 ml) was dropped to the solution and the reaction mixture was stirred under same condition for 3 hours. Water was added to the reaction mixture. The reaction mixture was stirred at 20° C. for 20 hours to give a yellow precipitate. The precipitate was collected by filtration to obtain yellow powder. The residue was purified by silica gel column chromatography eluted with a mixture of n-hexane and EtOAc. The fractions were concentrated in vacuo to obtain N′-[6-chloro-3-cyano-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinyl]-N,N-dimethylimidoformamide (1.0 g) as white powder.

reactant | 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinecarbonitrile 4-oxide | 1.54 g | NC=1C(=NC(=C[N+]1[O-])C1=NN(C(C=C1)=O)C(C)C)C#N | C12H12N6O2
reactant | Phosphorous oxychloride | 1.58 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Water | O | H2O
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N′-[6-chloro-3-cyano-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinyl]-N,N-dimethylimidoformamide | 1.0 g | ClC1=C(N=C(C(=N1)N=CN(C)C)C#N)C1=NN(C(C=C1)=O)C(C)C | C15H16ClN7O
